US05182399
To a stirred, room temperature, solution of benzimidazole (11.8 g, 1.00×10-1 mole) and dry DMF (100 ml) was added portion-wise sodium hydride (4.4 g, 1.1×10-1 mole, 60% oil dispersion). After ca. 30 minutes, 4-fluorobenzyl chloride (14.6 g, 1.01×10-1 mole) was added. The reaction was stirred at room temperature for ca. 17 hours and was then poured into a separatory funnel containing water and a 2:1 mixture of ethyl acetate:toluene. The two phases were mixed and the aqueous layer was separated. The organic layer was washed two times with H20 and once with saturated aqueous NaCl before being dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving an oil which was purified by flash chromatography (20% acetone/ethyl acetate). The resulting oil was kugelrohr distilled (230-245° C./0.3 mm) affording 1-[(4-fluorophenyl)methyl]-1H-benzimidazole as an oil which solidified giving a colorless solid: 17.4 g (77%), m.p. 60-62° C.

reactant | benzimidazole | 1.00×10-1 mole, 11.8 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 1.1×10-1 mole, 4.4 g | [H-].[Na+]
reactant | 4-fluorobenzyl chloride | 1.01×10-1 mole, 14.6 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-[(4-fluorophenyl)methyl]-1H-benzimidazole | FC1=CC=C(C=C1)CN1C=NC2=C1C=CC=C2 | C14H11FN2
